US09416135B2
To a pre-heated 60° C. solution of ethyl 4-amino-2-(methylthio)benzoate (65 mmol) in acetic acid (150 mL) was added ICl/AcOH solution (1M, 72 mL, 72 mmol) dropwise during 40 min and the temperature was maintained at 60° C. for 3 h. After cooling to rt the reaction was diluted with EtOAc (500 mL) and washed with 5% sodium thiosulfate solution (3×100 mL) and brine (200 mL), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by silica gel chromatography (0-20% EtOAc/Hexanes) to afford ethyl 4-amino-5-iodo-2-(methylthio)benzoate (13.67 g, 53% yield). For ethyl 4-amino-2-(methylthio)benzoate: LC-MS m/z 212 [M+H]+. For ethyl 4-amino-5-iodo-2-(methylthio)benzoate: LC-MS m/z 338 [M+H]+. 1H NMR (400 MHz, CDCl3): δ 8.29 (s, 1H), 6.47 (s, 1H), 4.49 (br s, 2H), 4.31 (q, J=7.2 Hz, 2H), 2.38 (s, 3H), 1.37 (t, J=7.2 Hz, 3H).

reactant | ethyl 4-amino-2-(methylthio)benzoate | 65 mmol | NC1=CC(=C(C(=O)OCC)C=C1)SC | C10H13NO2S
reactant | ICl AcOH | 72 mmol, 1M, 72 mL | ICl.CC(=O)O
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | ethyl 4-amino-5-iodo-2-(methylthio)benzoate | 13.67 g, 53% yield | NC1=CC(=C(C(=O)OCC)C=C1I)SC | C10H12INO2S
